.title kicad schematic

* u6 lt plot_v1
* u4 gt plot_v1
* u3 net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ gt eq lt dac_bridge_3
* u2 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ comparator4
* u5 eq plot_v1
v4 b3 gnd pulse(0 3.3 30n 1n 1n 20n 40n)
* u1 a3 a2 a1 a0 b3 b2 b1 b0 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_8
v1 b0 gnd pulse(0 3.3 30n 1n 1n 40n 80n)
v2 b1 gnd pulse(0 3.3 30n 1n 1n 80n 100n)
v3 b2 gnd pulse(0 3.3 30n 1n 1n 100n 200n)
v7 a1 gnd pulse(0 3.3 30n 1n 1n 60n 80n)
v8 a0 gnd pulse(0 3.3 30n 1n 1n 60n 80n)
v6 a2 gnd pulse(0 3.3 30n 1n 1n 80n 100n)
v5 a3 gnd pulse(0 3.3 30n 1n 1n 40n 80n)
a1 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ ] [gt eq lt ] u3
a2 [net-_u1-pad9_ ] [net-_u1-pad10_ ] [net-_u1-pad11_ ] [net-_u1-pad12_ ] [net-_u1-pad13_ ] [net-_u1-pad14_ ] [net-_u1-pad15_ ] [net-_u1-pad16_ ] [net-_u3-pad1_ ] [net-_u3-pad2_ ] [net-_u3-pad3_ ] u2
a3 [a3 a2 a1 a0 b3 b2 b1 b0 ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u1
* Schematic Name:                             dac_bridge_3, Ngspice Name: dac_bridge
.model u3 dac_bridge(out_low=0 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             comparator4, Ngspice Name: comparator4
.model u2 comparator4(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-09 300e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(lt)
plot v(gt)
plot v(eq)
.endc
.end
