
* C:\Users\mihir\eSim-Workspace\csdemirror20\csdemirror20.cir



.subckt csdemirror20 vdd GND currentsrc 

XM2 vdd  currentsrc n4 GND sky130_fd_pr__nfet_01v8 W=2 L=0.65 M=1
XM1 currentsrc currentsrc n2 GND sky130_fd_pr__nfet_01v8 W=2 L=0.65 M=1 		
XM4 n4 n2 GND GND sky130_fd_pr__nfet_01v8 W=1 L=0.65 M=1		
XM3 n2 n2 GND GND sky130_fd_pr__nfet_01v8 W=1 L=0.65 M=1 		

.ends csdemirror20
