* c:\users\theje\esim-workspace\debouncer\debouncer.cir

v1  net-_u2-pad1_ gnd pulse(0 5 0 1n 1n 50n 100n)
v2  net-_u2-pad2_ gnd pulse(0 5 200n 1n 1n 10m 20m)
v3  b_in gnd pwl(0 0 500u 0 500.1u 5 510u 0 530u 5 540u 0 580u 5 585u 0 600u 5)
* u2  net-_u2-pad1_ net-_u2-pad2_ b_in net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ adc_bridge_3
* u3  net-_u1-pad4_ b_out dac_bridge_1
* u4  b_out plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ debouncer
a1 [net-_u2-pad1_ net-_u2-pad2_ b_in ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] u2
a2 [net-_u1-pad4_ ] [b_out ] u3
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] u1
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             debouncer, NgSpice Name: debouncer
.model u1 debouncer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-06 1e-03 0e-00

* Control Statements 
.control
run
set xbrushwidth=3      
set color0=black       
set color1=white
plot v(b_out) (v(b_in)+6)
.endc
.end
