* c:\users\theje\esim-workspace\dde\dde.cir

* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ double_dabble
* u5  clk rst start net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ adc_bridge_8
* u6  net-_u6-pad1_ net-_u6-pad2_ net-_u6-pad3_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ adc_bridge_3
* u7  net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ out11 out10 out9 out8 out7 out6 out5 out4 dac_bridge_8
* u8  net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ out3 out2 out1 out0 done dac_bridge_5
v1 clk gnd pulse(0 5 0 1n 1n 50n 100n)
v2 rst gnd pulse(0 5 150n 1n 1n 10u 20u)
v3 start gnd pulse(0 5 250n 1n 1n 100n 20u)
v11 net-_u5-pad4_ gnd  dc 5
v10 net-_u5-pad5_ gnd  dc 5
v9 net-_u5-pad6_ gnd  dc 5
v8 net-_u5-pad7_ gnd  dc 5
v7 net-_u5-pad8_ gnd  dc 5
v6 net-_u6-pad1_ gnd  dc 5
v5 net-_u6-pad2_ gnd  dc 5
v4 net-_u6-pad3_ gnd  dc 5
* u9  out11 plot_v1
* u10  out10 plot_v1
* u11  out9 plot_v1
* u12  out8 plot_v1
* u13  out7 plot_v1
* u14  out6 plot_v1
* u15  out5 plot_v1
* u16  out4 plot_v1
* u17  out3 plot_v1
* u18  out2 plot_v1
* u19  out1 plot_v1
* u20  out0 plot_v1
* u21  done plot_v1
* u1  clk plot_v1
* u2  rst plot_v1
* u4  start plot_v1
a1 [net-_u3-pad1_ ] [net-_u3-pad2_ ] [net-_u3-pad3_ ] [net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ ] [net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ ] [net-_u3-pad24_ ] u3
a2 [clk rst start net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ ] [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] u5
a3 [net-_u6-pad1_ net-_u6-pad2_ net-_u6-pad3_ ] [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ ] u6
a4 [net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ ] [out11 out10 out9 out8 out7 out6 out5 out4 ] u7
a5 [net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ ] [out3 out2 out1 out0 done ] u8
* Schematic Name:                             double_dabble, NgSpice Name: double_dabble
.model u3 double_dabble(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 10e-09 3e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set color0=white 
set color1=black 
set xbrushwidth=2 
plot v(out0) (v(out1)+6) (v(out2)+12) (v(out3)+18) (v(out4)+24) (v(out5)+30) (v(out6)+36) (v(out7)+42) (v(out8)+48) (v(out9)+54) (v(out10)+60) (v(out11)+66) (v(done)+72) (v(start)+78) (v(rst)+84) (v(clk)+90)

.endc
.end
