* c:\users\theje\esim-workspace\digital_differentiator\digital_differentiator.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ triangle_gen
v1  net-_u2-pad1_ gnd pulse(0 5 0 1n 1n 49n 100n)
v2  net-_u2-pad2_ gnd pulse(0 5  200n 1n 1n 10m 20m)
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u14  out7 plot_v1
* u15  out6 plot_v1
* u16  out5 plot_v1
* u17  out4 plot_v1
* u18  out3 plot_v1
* u19  out2 plot_v1
* u20  out1 plot_v1
* u21  out0 plot_v1
* u13  net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ net-_u13-pad4_ net-_u13-pad5_ net-_u13-pad6_ net-_u13-pad7_ net-_u13-pad8_ out7 out6 out5 out4 out3 out2 out1 out0 dac_bridge_8
* u9  net-_u1-pad10_ net-_u1-pad9_ net-_u1-pad8_ net-_u1-pad7_ net-_u1-pad6_ net-_u1-pad5_ net-_u1-pad4_ net-_u1-pad3_ in0 in1 in2 in3 in4 in5 in6 in7 dac_bridge_8
* u3  in7 plot_v1
* u5  in6 plot_v1
* u6  in5 plot_v1
* u7  in4 plot_v1
* u8  in3 plot_v1
* u10  in2 plot_v1
* u11  in1 plot_v1
* u12  in0 plot_v1
* u4  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ net-_u13-pad4_ net-_u13-pad5_ net-_u13-pad6_ net-_u13-pad7_ net-_u13-pad8_ differentiator
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ ] [net-_u1-pad1_ net-_u1-pad2_ ] u2
a3 [net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ net-_u13-pad4_ net-_u13-pad5_ net-_u13-pad6_ net-_u13-pad7_ net-_u13-pad8_ ] [out7 out6 out5 out4 out3 out2 out1 out0 ] u13
a4 [net-_u1-pad10_ net-_u1-pad9_ net-_u1-pad8_ net-_u1-pad7_ net-_u1-pad6_ net-_u1-pad5_ net-_u1-pad4_ net-_u1-pad3_ ] [in0 in1 in2 in3 in4 in5 in6 in7 ] u9
a5 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] [net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ net-_u13-pad4_ net-_u13-pad5_ net-_u13-pad6_ net-_u13-pad7_ net-_u13-pad8_ ] u4
* Schematic Name:                             triangle_gen, NgSpice Name: triangle_gen
.model u1 triangle_gen(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u13 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             differentiator, NgSpice Name: differentiator
.model u4 differentiator(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-06 1e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

* Reconstruct the 8-bit Input Triangle Wave (Scaled 0 to 255)
let raw_in = (v(in7)/5)*128 + (v(in6)/5)*64 + (v(in5)/5)*32 + (v(in4)/5)*16 + (v(in3)/5)*8 + (v(in2)/5)*4 + (v(in1)/5)*2 + (v(in0)/5)*1

* Reconstruct the 8-bit Output Derivative Square Wave (Scaled 0 to 255)
let raw_out = (v(out7)/5)*128 + (v(out6)/5)*64 + (v(out5)/5)*32 + (v(out4)/5)*16 + (v(out3)/5)*8 + (v(out2)/5)*4 + (v(out1)/5)*2 + (v(out0)/5)*1

* Visual enhancements for the Ngspice window
set xbrushwidth=3      
set color0=black       
set color1=white

* Plot both curves together on a single unified grid
plot raw_in raw_out
.endc
.end
